US06649643B1
Production of 1-(6-(2-Furyl)-2-naphthyl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
6-[1-Hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthyl trifluoromethanesulfonate (2.0 g), 2-(tributylstannyl)furan (1.26 mL), tetrakis(triphenylphosphine)palladium (115 mg) and lithium chloride (259 mg) were dissolved in DMF (10 mL) and heated at 80 for 4 h. The reaction mixture was diluted with water, extracted with ethyl acetate. The extract was washed with water and brine, dried and concentrated. The residue was purified by column chromatography (eluent; hexane:THF=4:1) and crystallized from ethyl acetate-hexane to give the titled compound (1.48 g) as a colorless powder.

reactant | 6-[1-Hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthyl trifluoromethanesulfonate | 2.0 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)(F)F | C37H31F3N2O4S
reactant | 2-(tributylstannyl)furan | 1.26 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
reactant | lithium chloride | 259 mg | [Cl-].[Li+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-(2-Furyl)-2-naphthyl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 1.48 g | O1C(=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C21H20N2O2
